US05321026
A 7.7 solution (0.59 cc) of hydrochloric acid in ethanol is added dropwise in the course of 5 minutes to a solution of N-benzyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (2.0 g), in absolute ethanol (30 cc). The solution is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) and the residue is suspended in ethyl ether (100 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. to give N-benzyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride, L series (1.91 g), in the form of a white solid, m.p. 218° C.

reactant | hydrochloric acid | 0.59 cc | Cl | ClH
reactant | N-benzyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(C1=CC=CC=C1)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C27H29N3OS
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | N-benzyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | Cl.C(C1=CC=CC=C1)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | InChI=1S/C27H29N3OS.ClH/c1-20(19-29-15-7-8-16-29)30-23-11-5-6-12-25(23)32-26-14-13-22(17-24(26)30)27(31)28-18-21-9-3-2-4-10-21;/h2-6,9-14,17,20H,7-8,15-16,18-19H2,1H3,(H,28,31);1H
